US05591735
Preparation of 2β-(4-hydroxy-1-piperidinyl)-16β-(1-piperidinyl)-5α-androstane-3α,17β-diol-diacetate
2β-(4-Oxo-1-piperidinyl)-16β-(1-piperidinyl)-5α-androstane-3α,17β-diol-diacetate is reduced by using sodium borohydride as described in Example 1 to give the title compound in a yield of 69.5%, m.p.: 108°-110° C.

reactant | 2β-(4-Oxo-1-piperidinyl)-16β-(1-piperidinyl)-5α-androstane-3α,17β-diol diacetate | O=C1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCCC1)O.CC(=O)CC(=O)O
reactant | sodium borohydride | [BH4-].[Na+]
product | 2β-(4-hydroxy-1-piperidinyl)-16β-(1-piperidinyl)-5α-androstane-3α,17β-diol diacetate | yield of 69.5% | OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCCC1)O.CC(=O)CC(=O)O | InChI=1S/C29H50N2O3.C4H6O3/c1-28-11-8-22-21(23(28)17-24(27(28)34)30-12-4-3-5-13-30)7-6-19-16-26(33)25(18-29(19,22)2)31-14-9-20(32)10-15-31;1-3(5)2-4(6)7/h19-27,32-34H,3-18H2,1-2H3;2H2,1H3,(H,6,7)/t19-,21+,22-,23-,24-,25-,26-,27-,28-,29-;/m0./s1
